US05204326
Preparation of Boc-Gly-Ser(Bzl)-Asn-Leu-NHNH2
2.80 Grams of Boc-Gly-Ser(Bzl)-Asn-Leu-OEt was dissolved in 30 ml of methanol. Thereto was added 2.25 ml of NH2NH2.H2O. The mixture was allowed to stand for 2 days at room temperature. The resulting precipitate was collected by filtration and washed with methanol to obtain 2.16 g (yield: 79.0%) of the above objective compound. Melting point: 221°-224° C.

reactant | Boc-Gly-Ser(Bzl)-Asn-Leu-OEt | N(CC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)OCC)C(=O)OC(C)(C)C | C29H45N5O9
reactant | NH2NH2.H2O | 2.25 ml | NN.O
solvent | methanol | 30 ml | CO | CH4O
product | Boc-Gly-Ser(Bzl)-Asn-Leu-NHNH2 | 2.16 g, yield: 79.0% | N(CC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H](CC(C)C)C(=O)NN)C(=O)OC(C)(C)C | C27H43N7O8
